US05173489
9,9-Bis(4-pyridinylmethyl)-2-acetylfluorene dihydrochloride
The title compound was prepared following the procedure of Example 1 from 5.0 g (24 mmole) of 2-acetylfluorene, 10 g of 4-picolylchloride hydrochloride, 120 ml benzene, 200 mg of benzyltriethylammonium chloride, and 20 ml of 50% sodium hydroxide by reaction solution at 20° for 17 hrs. The title compound was obtained after an acid-base wash and crystallization from benzene-hexane (Magnesol®), m.p., >300°. NMR (CDCl3, 200 MHz) δ: 2.68(S,3H), 3.46(S,4H), 6.44(d,J=5.9Hz,4H), 7.29-7.87(m,6H), 8.05(d,J=5.9Hz,4H), 8.22(d,1H). HRMS calculated for C27H22N2O: 390.1732 Found: 390.1720.

reactant | 2-acetylfluorene | 24 mmole, 5.0 g | C(C)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12O
reactant | 4-picolylchloride hydrochloride | 10 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 200 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 9,9-Bis(4-pyridinylmethyl)-2-acetylfluorene dihydrochloride | Cl.Cl.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)C(C)=O)CC1=CC=NC=C1 | InChI=1S/C27H22N2O.2ClH/c1-19(30)22-6-7-24-23-4-2-3-5-25(23)27(26(24)16-22,17-20-8-12-28-13-9-20)18-21-10-14-29-15-11-21;;/h2-16H,17-18H2,1H3;2*1H
